US08357694B2
A solution of 2-chloro-6-(3,4-dichlorophenyl)-5,6-dihydrobenzo[f]isoquinoline-1-carbonitrile (156 mg, 0.405 mmol) in N,N-dimethylformamide (3.5 ml) and 2-(1-methylpyrrolidin-2-yl)ethanamine (250 ul) was heated under microwave conditions at 20° C. for 40 minutes. The mixture was partitioned between ethyl acetate (50 ml) and water (30 ml). The aqueous layer was removed and the organic layer was washed with water (3×30 ml) and dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The crude product was purified by flash column chromatography on silica gel using a gradient of dichloromethane-methanol as eluent to afford 6-(3,4-dichlorophenyl)-2-(2-(1-methylpyrrolidin-2-yl)ethylamino)-5,6-dihydrobenzo[f]isoquinoline-1-carbonitrile as a yellow solid (96 mg, 50%). M.p.=131-134° C. 400 MHz 1H NMR (DMSO-d6) δ 8.30 (m, 1H), 8.14 (s, 1H), 7.49 (m, 5H), 7.13 (m, 1H), 7.00 (dd, J=8 and 2 Hz, 1H), 4.30 (m, 1H), 3.43 (m, 2H), 3.08 (dd, J=15.2 and 7.2 Hz, 1H), 2.92 (dd, J=15.2 and 5.6 Hz, 1H), 2.37 (m, 6H), 1.97 (m, 1H), 1.89 (m, 1H), 1.68 (m, 3H), 1.55 (m, 1H). LCMS m/e 477 [M+H].

reactant | 2-chloro-6-(3,4-dichlorophenyl)-5,6-dihydrobenzo[f]isoquinoline-1-carbonitrile | 0.405 mmol, 156 mg | ClC1=NC=C2CC(C3=C(C2=C1C#N)C=CC=C3)C3=CC(=C(C=C3)Cl)Cl | C20H11Cl3N2
reactant | 2-(1-methylpyrrolidin-2-yl)ethanamine | 250 ul | CN1C(CCC1)CCN | C7H16N2
solvent | N,N-dimethylformamide | 3.5 ml | CN(C=O)C | C3H7NO
product | 6-(3,4-dichlorophenyl)-2-(2-(1-methylpyrrolidin-2-yl)ethylamino)-5,6-dihydrobenzo[f]isoquinoline-1-carbonitrile | 96 mg, 50% | ClC=1C=C(C=CC1Cl)C1C2=C(C3=C(C(=NC=C3C1)NCCC1N(CCC1)C)C#N)C=CC=C2 | C27H26Cl2N4
